US08466186B2
(c) 4-Chloro-5-[5-chloro-1-methyl-6-(4-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]-2-fluorobenzonitrile
The sub-title compound was prepared in analogy to the procedure in Example 76 using 4-chloro-2-fluoro-5-isothiocyanatobenzonitrile (300 mg; 1.41 mmol), 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (434 mg; 1.41 mmol), DIC (178 mg; 1.41 mmol) and DMF (12 mL).

reactant | 4-chloro-2-fluoro-5-isothiocyanatobenzonitrile | 1.41 mmol, 300 mg | ClC1=CC(=C(C#N)C=C1N=C=S)F | C8H2ClFN2S
reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 1.41 mmol, 434 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | DIC | 1.41 mmol, 178 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-5-[5-chloro-1-methyl-6-(4-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]-2-fluorobenzonitrile | ClC1=CC(=C(C#N)C=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)F | C21H17Cl2F4N5
